US05639770
280 mg of ammonium chloride and 380 mg of sodium azide were added to a solution of 1.5 g of 2-(3,4-diethoxyphenyl)-4-(6-cyano-2-pyridyl)thiazole dissolved in 30 ml of dimethylformamide. The mixture was stirred at 120° C. for 9 hours. To the reaction mixture was added diluted hydrochloric acid to make the mixture acidic, followed by extraction three times with 150 ml of ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation. The residue was recrystallized from ethanol-ethyl acetate to obtain 1.19 g of 2-(3,4-diethoxyphenyl)-4-[6-(1,2,3,4-tetrazol-5-yl)-2-pyridyl]thiazole.

reactant | ammonium chloride | 280 mg | [Cl-].[NH4+]
reactant | sodium azide | 380 mg | [N-]=[N+]=[N-].[Na+]
reactant | 2-(3,4-diethoxyphenyl)-4-(6-cyano-2-pyridyl)thiazole | 1.5 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C#N | C19H17N3O2S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-diethoxyphenyl)-4-[6-(1,2,3,4-tetrazol-5-yl)-2-pyridyl]thiazole | 1.19 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C1=NN=NN1 | C19H18N6O2S
